US09290476B2
(4-Fluorophenyl)(1-methyl-1H-imidazol-5-yl)methanol
The title compound was prepared analogously to the method in Intermediate 27: step a using (4-fluorophenyl)magnesium bromide and 1-methyl-1H-imidazole-5-carbaldehyde in place of (3,4-dimethoxyphenyl)magnesium bromide and nicotinaldehyde, respectively.

reactant | (4-fluorophenyl)magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 1-methyl-1H-imidazole-5-carbaldehyde | CN1C=NC=C1C=O | C5H6N2O
reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
product | (4-Fluorophenyl)(1-methyl-1H-imidazol-5-yl)methanol | FC1=CC=C(C=C1)C(O)C1=CN=CN1C | C11H11FN2O
